US05663296
Step 1: Preparation of Boc-Ile-Ile-OCH3 (methyl-N-[N-[(1,1-dimethylethoxy)carbonyl]-L-isoleucyl]-L-isoleucine)
A solution of N-Boc-L-isoleucine hemihydrate (26.44 g, 0.11 mol), L-isoleucine methyl ester hydrochloride (20.0 g, 0.11 mol), and HOBt (18.42 g, 0.132 mol) in DMF (300 mL) is treated with triethylamine (37.58 mL, 0.276 mol), followed by DCC (26.08 g, 0.122 mol) at 0° C. The reaction mixture is kept cold for 2 to 3 hours and stirred at room temperature for a total of 21 hours. The suspension is filtered and the filtrate is concentrated. The residue is treated with EtOAc and the solution filtered. The filtrate is washed with saturated aqueous solutions of NaHCO3 and NaCl, dried over Na2SO4, and concentrated. The crude product is suspended in boiling hexane and EtOAc is added portionwise until the solution is homogeneous. The solution is filtered hot, and upon cooling to 0° C., 31.79 g of the title compound is obtained as a white crystalline solid; Mass spectroscopy (chemical ionization) (MS(CI)), M+1=359

reactant | N-Boc-L-isoleucine hemihydrate | 0.11 mol, 26.44 g | O.C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O.C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O
reactant | L-isoleucine methyl ester hydrochloride | 0.11 mol, 20.0 g | Cl.COC([C@@H](N)[C@@H](C)CC)=O
reactant | HOBt | 0.132 mol, 18.42 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.276 mol, 37.58 mL | C(C)N(CC)CC | C6H15N
reactant | DCC | 0.122 mol, 26.08 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | Boc-Ile-Ile-OCH3 | 31.79 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OC)C(=O)OC(C)(C)C | C18H34N2O5
